US03944531
2-bromo-6-methyl-heptane was reacted with 3-methoxy-4-hydroxy-5-bromo-benzaldehyde to obtain 5-bromo-4-[(1,5-dimethyl-hexyl)-oxy]-m-anisaldehyde (boiling point = 190°-193°C/0.1 mmHg); 2-bromo-6-methyl-heptane was reacted with p-hydroxy-benzonitrile to obtain p-[(1,5-dimethyl-hexyl)-oxy]-benzonitrile (boiling point = 165°-168°C/1.0 mmHg);

reactant | 2-bromo-6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | 3-methoxy-4-hydroxy-5-bromo-benzaldehyde | COC=1C=C(C=O)C=C(C1O)Br | C8H7BrO3
product | 5-bromo-4-[(1,5-dimethyl-hexyl)-oxy]-m-anisaldehyde | BrC=1C(=C(C=C(C=O)C1)OC)OC(CCCC(C)C)C | C16H23BrO3
